US05700810
5-Chloro-2-hydroxy-2'-(trifluoromethyl)benzophenone [prepared from 2-bromo-4-chloro-(2-methyoxyethoxy)methoxybenzene and ortho-(trifluoromethyl)benzaldehyde as the starting materials: melting point, 71°-72° C. (recrystallized from hexane-isopropyl ether)] was reacted by a method similar to Process 1 of Reference Example 25 to yield 6-chloro-2-oxo-4-[2-(trifluoromethyl)phenyl)-2H-1-benzopyran-3-carboxylic acid ethyl ester as an oily substance.

reactant | 5-Chloro-2-hydroxy-2'-(trifluoromethyl)benzophenone | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2)C(F)(F)F)C1)O | C14H8ClF3O2
reactant | 2-bromo-4-chloro-(2-methyoxyethoxy)methoxybenzene | BrC1=C(C=CC(=C1)Cl)OCOCCOC | C10H12BrClO3
reactant | ortho-(trifluoromethyl)benzaldehyde | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
product | 6-chloro-2-oxo-4-[2-(trifluoromethyl)phenyl)-2H-1-benzopyran-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(OC2=C(C1C1=C(C=CC=C1)C(F)(F)F)C=C(C=C2)Cl)=O | C19H12ClF3O4
